US05808062
4-Hydroxy-6-phenyl-3-[(3-trifluoromethylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.72 g, 8.92 mmol) and diethyl ester of [[3-(trifluoromethyl)phenyl]thio]propanedioic acid (1.5 g, 4.46 mmol). m.p. 228°-229° C.; 1H NMR (400 MHz, DMSO-d6) δ 6.89 (s, 1H), 7.4-7.61 (m, 7H), 7.89 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 8.92 mmol, 1.72 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [[3-(trifluoromethyl)phenyl]thio]propanedioic acid | 4.46 mmol, 1.5 g | FC(C=1C=C(C=CC1)SC(C(=O)O)C(=O)O)(F)F | C10H7F3O4S
product | 4-Hydroxy-6-phenyl-3-[(3-trifluoromethylphenyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SC1=CC(=CC=C1)C(F)(F)F | C18H11F3O3S
